US04147864
The isomer mixture obtained, consisting of 7β-phenoxyacetamido-3-benzoxy-ceph-2-em-4α-carboxylic acid p-nitrobenzyl ester and 7β-phenoxyacetamido-3-benzoxy-ceph-3-em-4-carboxylic acid p-nitrobenzyl ester in the ratio of about 3:1, is dissolved in 8 ml of trifluoroacetic acid and the solution is stirred for 90 minutes at room temperature. The reaction mixture is then concentrated by evaporation in vacuo and residual trifluoroacetic acid is repeatedly driven off with toluene. The residue is chromatographed on 20 g of acid-washed silica gel, using toluene/ethyl acetate (3:1), giving 7β-phenoxyacetamido-3-hydroxy-ceph-3-em-4-carboxylic acid p-nitrobenzyl ester in the form of a colourless foam. IR spectrum (methylene chloride): characteristic bands at 2.95, 3.3, 5.6, 5.75 sh, 5.9, 5.95 sh, 6.55, 7.45, 8.15 and 8.3 μ; NMR spectrum (deuterochloroform): characteristic bands at 3.4 (2H, AB q, J=17 Hz), 4.57 (2H, s), 5.06 (1H, d, J=5 Hz), 5.35 (2H, AB q, J=14 Hz), 5.7 (1H, dd, J=5, 10 Hz), 6.8-8.4 (10H, c), 11.4 (1H, br.s.) ppm.

reactant | 7β-phenoxyacetamido-3-benzoxy-ceph-2-em-4α-carboxylic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)[C@H]2C(=CS[C@H]3N2C([C@H]3NC(COC3=CC=CC=C3)=O)=O)OCC3=CC=CC=C3)C=C1 | C29H25N3O8S
reactant | 7β-phenoxyacetamido-3-benzoxy-ceph-3-em-4-carboxylic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(COC3=CC=CC=C3)=O)=O)OCC3=CC=CC=C3)C=C1 | C29H25N3O8S
solvent | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 7β-phenoxyacetamido-3-hydroxy-ceph-3-em-4-carboxylic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(=O)C2=C(CS[C@H]3N2C([C@H]3NC(COC3=CC=CC=C3)=O)=O)O)C=C1 | C22H19N3O8S
